US07582775B2
B. 5-(1-Ethyl-propenyl)-2-fluoro-benzaldehyde
A solution of 1-(1-ethyl-propenyl)-4-fluoro-benzene (15.3 g, 93.2 mmol) in THF (150 mL) at −78° C. is treated with n-BuLi (70 mL, 1.6 M). The reaction mixture is allowed to warm to 0° C. over 60 min, cooled to −78° C., and treated with DMF (10.2 g, 140 mmol). The mixture is stirred for 10 min and quenched with HOAc (10 mL) and water (200 mL). The mixture is allowed to warm to RT, and the THF is removed under vacuum. The residue is extracted with EtOAc (2×100 mL, and the organic layer is dried over Na2SO4 andconcentrated. The crude product is purified using silica gel column chromatography (7% EtOAc/Hex) to afford the title compound (8.70 g, 49%).

reactant | 1-(1-ethyl-propenyl)-4-fluoro-benzene | 93.2 mmol, 15.3 g | C(C)C(=CC)C1=CC=C(C=C1)F | C11H13F
reactant | n-BuLi | 1.6 M, 70 mL | [Li]CCCC
reactant | DMF | 140 mmol, 10.2 g | CN(C)C=O | C3H7NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-(1-Ethyl-propenyl)-2-fluoro-benzaldehyde | 8.70 g, 49% | C(C)C(=CC)C=1C=CC(=C(C=O)C1)F | C12H13FO
